US07692005B2
6-[3-(benzylamino)benzoyl]-1,3-dihydro-2H-indol-2-one (0.057 g, 0.167 mmol) and ethyl formate (0.040 mL, 0.500 mmol) were dissolved in anhydrous ethanol (1.67 mL). The resulting solution was treated in dropwise fashion with a 21 wt % solution of sodium ethoxide in ethanol (0.310 mL, 0.833 mmol). This reaction mixture was heated at 78° C. for 1 h, producing a black oil. The reaction mixture was cooled to room temperature, and then the reaction pH was adjusted to pH 1 with dropwise addition of 1M HCl(aq) causing the formation of a tan precipitate. The suspension was filtered yielding 6-(3-Benzylamino-benzoyl)-3-[1-hydroxy-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one as an orange solid (0.021 g, 0.056 mmol, 34%) which was carried on without further purification.

reactant | 6-[3-(benzylamino)benzoyl]-1,3-dihydro-2H-indol-2-one | 0.167 mmol, 0.057 g | C(C1=CC=CC=C1)NC=1C=C(C(=O)C2=CC=C3CC(NC3=C2)=O)C=CC1 | C22H18N2O2
reactant | ethyl formate | 0.500 mmol, 0.040 mL | C(=O)OCC | C3H6O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | ethanol | 1.67 mL | C(C)O | C2H6O
solvent | ethanol | 0.833 mmol, 0.310 mL | C(C)O | C2H6O
product | 6-(3-Benzylamino-benzoyl)-3-[1-hydroxy-meth-(Z)-ylidene]-1,3-dihydro-indol-2-one | 0.056 mmol, 0.021 g, 34% | C(C1=CC=CC=C1)NC=1C=C(C(=O)C2=CC=C3/C(/C(NC3=C2)=O)=C/O)C=CC1 | C23H18N2O3
